US04871877
A mixture of 200 mg (11 mmol) of 4-hydroxy-4-trifluoromethyl-2,5-cyclohexadien-1-one, 461 mg (3.3 mmol) of ethyl glycinate hydrochloride, 336 mg (4.0 mmol) of sodium bicarbonate, and 3 mL of 95% ethanol was heated to reflux for 3 hours, allowed to cool to room temperature, and poured into 20 mL of water. The resulting aqueous mixture was extracted with three 10 mL portions of dichloromethane. Combination, drying (MgSO4), and concentration of the organic layers afforded a residue which was subjected to PTLC (one 2 mm silica gel plate eluted with dichloromethane) to give 102 mg (56% yield) of 4-trifluoromethylaniline.

reactant | 4-hydroxy-4-trifluoromethyl-2,5-cyclohexadien-1-one | 11 mmol, 200 mg | OC1(C=CC(C=C1)=O)C(F)(F)F | C7H5F3O2
reactant | ethyl glycinate hydrochloride | 3.3 mmol, 461 mg | Cl.NCC(=O)OCC
reactant | sodium bicarbonate | 4.0 mmol, 336 mg | C([O-])(O)=O.[Na+]
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 4-trifluoromethylaniline | 102 mg, 56% yield | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
